data/mechanisms/records/IMS8-EQ8.21b.json
{"mechanism_id": "IMS8-EQ8.21b", "species": [{"species_id": "steroid_ene_aminium_radical_cation", "mapped_smiles": "[CH:6]1=[CH:7][CH2:8][C:9]2([CH3:13])[CH:10]([CH2:11]1)[CH2:14][CH2:15][CH:16]1[CH:17]2[CH2:18][CH2:19][C:20]2([CH3:22])[CH:21]1[CH2:23][CH2:24][CH:25]2[CH2:26][NH2+:27]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "n_methylacetamide_enol", "mapped_smiles": "[C:1]([O:2][1H:12])([CH3:3])=[N:4][CH3:5]", "role": "spectator", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "steroid_ene_radical", "mapped_smiles": "[CH:6]1=[CH:7][CH2:8][C:9]2([CH3:13])[CH:10]([CH2:11]1)[CH2:14][CH2:15][CH:16]1[CH:17]2[CH2:18][CH2:19][C:20]2([CH3:22])[CH:21]1[CH2:23][CH2:24][CH:25]2", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methyleniminium_ion", "mapped_smiles": "[CH2:26]=[NH2+:27]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}], "states": [{"state_id": "state_complex", "species_ids": ["steroid_ene_aminium_radical_cation", "n_methylacetamide_enol"]}, {"state_id": "state_products", "species_ids": ["steroid_ene_radical", "methyleniminium_ion", "n_methylacetamide_enol"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_complex", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [27]}, "target": {"type": "bond", "atom_maps": [26, 27]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [25, 26]}, "target": {"type": "bond", "atom_maps": [26, 27]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [25, 26]}, "target": {"type": "atom", "atom_maps": [25]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_21b", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 154, "equation": "8.21", "figure": null, "panel": "bottom-right -> bottom-left (arrow labelled alpha)", "section": "8 / Detailed Mechanisms of Ion Fragmentation"}, "confidence": 0.8, "curator_note": "Step 3 of Equation 8.21 (the reaction arrow is labelled 'alpha'). Text: after the gamma-H/beta-cleavage (record IMS8-EQ8.21a) 'the molecule of N-methylacetamide enol remains in the vicinity of the ion and moves across the steroid skeleton to form a stabilized hydrogen-bond complex with the 20-amino group. This eventually dissociates by alpha-cleavage to form the ion at m/z 103.' The precursor here is the ion-neutral complex of the steroid-ene aminium radical cation (n-ionized 20-amine, -CH2-NH2+.) hydrogen-bonded to the neutral enol (drawn bottom-right as -CH2-NH....H+....N=C(OH)CH3). alpha-cleavage breaks the C17-C20 bond (map25-map26) beta to the aminium nitrogen and forms the C20=N iminium double bond (map26=map27), expelling the neutral steroid radical (radical at C17, map25) and giving the methyleniminium ion CH2=NH2+ (m/z 30). ARC COUNT (convention D): the book draws 2 arcs at the -CH2-NH group, both single-barbed fishhooks that FORM the new C=N pi bond -- one from the aminium N odd electron (encoded move 1: atom(27)->bond(26,27)) and one from a C17-C20 bonding electron (encoded move 2: bond(25,26)->bond(26,27)). Book draws 2 arc(s); moves <1,2> are drawn, move <3> (the second C17-C20 bonding electron onto the departing steroid radical C17, bond(25,26)->atom(25)) is an implicit homolysis hook required for electron balance (not drawn on the page -- the neutral steroid radical is not drawn as a separate product at all). NON-COVALENT COMPLEX (convention G): the observed ion m/z 103 is drawn as a proton-bound complex, HO-C(CH3)=N(CH3)....H+....HN=CH2, i.e. the N-methylacetamide enol (73.0528) hydrogen-bonded through a shared proton to methanimine; it is NOT a single covalent species, so it is encoded here as its net components -- the methyleniminium cation (map26,27; 30.0333) plus the neutral enol spectator (73.0528), whose masses sum to the m/z 103.0860 (nominal 103) printed under the structure. The extra bridging proton is the aminium's own N-H engaged in the H-bond to the enol nitrogen; no separate proton transfer is needed for the covalent alpha-cleavage. CHARGE/RADICAL (convention B): charge and odd electron localized on the 20-amino nitrogen per the aminium radical cation (see record a). SUBSTRATE (convention F): same curator-chosen 20-aminomethyl-androstene realization as record a; the steroid backbone is a spectator to the alpha-cleavage."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 360.313, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_mz_103", "species_id": "methyleniminium_ion", "step_id": "step_alpha_cleavage", "observed_mz": 103.086, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "observed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
